US09283226B2
8A. 3-(4-Bromo-phenyl)-2-cyano-acrylic acid ethyl ester
4-Bromobenzaldehyde (3 g, 16.21 mmol) and ethyl cyanoacetate (1.9 ml, 17.84 mmol) in toluene was added piperidine (27 μl) and the reaction mixture was refluxed for 1 hour with a Dean-Stark separator. The solvent was removed under reduced pressure, the residue triturated with warm ethyl acetate, filtered to yield the desired product as a yellow solid (4.03 g, 89% yield). LC/MS: (PS-A2) Rt 3.44.

reactant | 4-Bromobenzaldehyde | 16.21 mmol, 3 g | BrC1=CC=C(C=O)C=C1 | C7H5BrO
reactant | ethyl cyanoacetate | 17.84 mmol, 1.9 ml | C(#N)CC(=O)OCC | C5H7NO2
reactant | piperidine | 27 μl | N1CCCCC1 | C5H11N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-(4-Bromo-phenyl)-2-cyano-acrylic acid ethyl ester | 4.03 g, 89% yield | C(C)OC(C(=CC1=CC=C(C=C1)Br)C#N)=O | C12H10BrNO2
